US07713994B2
Crude 4-(1-azido-ethyl)-2-benzyloxy-1-methoxybenzene is hydrogenated at 50 psi, using 10% Pd/C in ethanolic hydrogen chloride solution to give 5-(1-amino-ethyl)-2-methoxyphenol.

reactant | 4-(1-azido-ethyl)-2-benzyloxy-1-methoxybenzene | N(=[N+]=[N-])C(C)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C16H17N3O2
solvent | hydrogen chloride | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
product | 5-(1-amino-ethyl)-2-methoxyphenol | NC(C)C=1C=CC(=C(C1)O)OC | C9H13NO2
